US07714099B2
Synthesis of 2-phenyl-2H-benzotriazole
2-phenylazoaniline (3.47 g, 17.6 mmol) prepared above was placed in a 100-mL 1-neck round bottomed flask. Acetic acid (20 mL) and iodobenzene diacetate (6.23 g, 19.4 mmol) were added, in that order, resulting in an exotherm. The reaction was allowed to proceed for 1 hour during which time the mixture cooled to room temperature. Dichloromethane and water were added to the reaction mixture. The organic layer was separated and dried over MgSO4. The solution was filtered and concentrated using a rotary evaporator. The residue was purified on a silica gel column using dichloromethane as eluent. The fractions containing the desired product were combined and solvent removed. The solid was dried in a vacuum oven for 2 h. Yield: 34%.

reactant | 2-phenylazoaniline | 17.6 mmol, 3.47 g | C1(=CC=CC=C1)C1=C(NN=NNC2=CC=CC=C2)C=CC=C1 | C18H16N4
reactant | Acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | iodobenzene diacetate | 19.4 mmol, 6.23 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-phenyl-2H-benzotriazole | Yield: 34% | C1(=CC=CC=C1)N1N=C2C(=N1)C=CC=C2 | C12H9N3
